US08981085B2
tert-Butyl (R)-1-(5-bromo-3-((S)-2-hydroxypropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate (0.040 g, 0.085 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added, and the reaction was stirred at room temperature for 1 hour and concentrated to dryness. The resulting residue was then purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 0-50% CH3CN/water). The resulting product was next dissolved in minimal DCM (with MeOH to aid solubility) and added to a stirring solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give (S)—N-(4-((R)-3-aminopyrrolidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxypropanamide hydrochloride (0.022 g, 58% yield). 1H NMR (400 MHz, D2O) δ 8.16 (s, 1H), 7.50 (s, 1H), 4.32-4.30 (q, 1H), 4.03-4.00 (m, 1H), 3.89-3.84 (m, 1H), 3.66-3.63 (m, 1H), 3.59-3.55 (m, 1H), 3.48-3.46 (m, 1H), 2.42-2.39 (m, 1H), 2.07-2.04 (m, 1H), 1.34-1.32 (d, 3H); LCMS (APCI+) m/z 368, 370 (M+H)+.

reactant | tert-Butyl (R)-1-(5-bromo-3-((S)-2-hydroxypropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate | 0.085 mmol, 0.040 g | BrC=1C(=C2C(=NC1)NC=C2NC([C@H](C)O)=O)N2C[C@@H](CC2)NC(OC(C)(C)C)=O | C19H26BrN5O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-(4-((R)-3-aminopyrrolidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxypropanamide hydrochloride | 0.022 g, 58% yield | Cl.N[C@H]1CN(CC1)C1=C2C(=NC=C1Br)NC=C2NC([C@H](C)O)=O | InChI=1S/C14H18BrN5O2.ClH/c1-7(21)14(22)19-10-5-18-13-11(10)12(9(15)4-17-13)20-3-2-8(16)6-20;/h4-5,7-8,21H,2-3,6,16H2,1H3,(H,17,18)(H,19,22);1H/t7-,8+;/m0./s1
